US05821246
Using an analogous procedure to that described in the first paragraph of the portion of Example 42 which is concerned with the preparation of starting materials, 4-chloro-6-nitroquinazoline was reacted with 4-amino-3-fluorophenyl 2-pyridylmethyl ether to give 4-[2-fluoro-4-(2-pyridylmethoxy)anilino]-6-nitroquinazoline in 98% yield.

reactant | 4-chloro-6-nitroquinazoline | ClC1=NC=NC2=CC=C(C=C12)[N+](=O)[O-] | C8H4ClN3O2
reactant | 4-amino-3-fluorophenyl 2-pyridylmethyl ether | N1=C(C=CC=C1)COC1=CC(=C(C=C1)N)F | C12H11FN2O
product | 4-[2-fluoro-4-(2-pyridylmethoxy)anilino]-6-nitroquinazoline | 98% yield | FC1=C(NC2=NC=NC3=CC=C(C=C23)[N+](=O)[O-])C=CC(=C1)OCC1=NC=CC=C1 | C20H14FN5O3
